US03931239
Step D: 2,3-Dihydro-5-isovaleryl-6,7-dimethylbenzofuran-2-carboxylic acid
To a stirred solution of 2,3-dihydro-6,7-dimethylbenzofuran-2-carboxylic acid (9 g.) and isovaleryl chloride (7.5 g.) in dichloromethane (100 ml.) at 5°C. is added aluminum chloride (20 g.) in portions over a 1 hour period. The reaction mixture is stirred at 25° for 18 hours then poured into a mixture of ice (300 g.) and hydrochloric acid (50 ml.) affording 9 lg. of 2,3-dihydro-5-isovaleryl-6,7-dimethyl-benzofuran-2-carboxylic acid which melts at 117° after recrystallization from methylcyclohexane.

reactant | 2,3-dihydro-6,7-dimethylbenzofuran-2-carboxylic acid | 9 g | CC1=C(C2=C(CC(O2)C(=O)O)C=C1)C | C11H12O3
reactant | isovaleryl chloride | 7.5 g | C(CC(C)C)(=O)Cl | C5H9ClO
reactant | aluminum chloride | 20 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2,3-Dihydro-5-isovaleryl-6,7-dimethylbenzofuran-2-carboxylic acid | C(CC(C)C)(=O)C=1C(=C(C2=C(CC(O2)C(=O)O)C1)C)C | C16H20O4
